US07842696B2
DIPEA (0.472 mL, 2.73 mmol) was added to a stirred solution of thiophene-2-carboxylic acid (100 mg, 0.78 mmol) in DMF (1 mL). HOBT (126 mg, 0.94 mmol) and EDCI.HCl (179 mg, 0.94 mmol) were added, followed by the addition of ethyl glycine ester hydrochloride (119 mg, 0.86 mmol) at room temperature. The reaction mixture was stirred at room temperature overnight. The mixture was then diluted with water and the product extracted with EtOAc. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated under reduced pressure to afford [(thiophene-2-carbonyl)-amino]-acetic acid ethyl ester in 84% yield, LC-MS purity: 97%

reactant | DIPEA | 2.73 mmol, 0.472 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophene-2-carboxylic acid | 0.78 mmol, 100 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | HOBT | 0.94 mmol, 126 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.94 mmol, 179 mg | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [(thiophene-2-carbonyl)-amino]-acetic acid ethyl ester | 84% yield | C(C)OC(CNC(=O)C=1SC=CC1)=O | C9H11NO3S
